US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-cyclohexyl-5-fluoro-4-pyrimidineamine and 3,4-ethylenedioxyaniline were reacted to yield N4-cyclohexyl-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.62 (d, 1H, J=4.2 Hz), 7.31 (d, 1H, J=2.1 Hz), 6.86 (dd, 1H, J=2.4 and 8.7 Hz), 6.68 (d, 1H, J=8.7 Hz), 4.234.16 (m, 4H), 3.99–3.89 (m, 1H), 2.03 (dd, 2H, J=2.1 and 12.3 Hz), 1.80 (dt, 2H, J=3.0 and 13.5 Hz), 1.72–1.65 (m, 1H), 1.49–1.20 (m, 5H); 19F NMR (CD3OD): −48332; LCMS: ret. time: 24.54 min.; purity: 95%; MS (m/e): 345 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-cyclohexyl-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1CCCCC1)F | C10H13ClFN3
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N4-cyclohexyl-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C1(CCCCC1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C18H21FN4O2
